US07098222B2
2-(5-Methyl-1-Pyridin-2-yl-1H-pyrazol-4-yl)-6-[2-((2R)-2-methyl-pyrrolidin-1-yl)-ethyl]-quinoline
The title compound was prepared using the procedure described in Example 1G using 1-(5-methyl-1-pyridin-2-yl-1H-pyrazol-4-yl)-ethanone (Singh, S. P., et. al. Heterocycl. Commun., 2001, 7(1), p. 49-54) for 1-(4-methyl-2-thiophen-2-yl-thiazol-5-yl)-ethanone. 1H NMR (300 MHz, CDCl3) δ 1.14 (d, J=6.10 Hz, 3H), 1.46 (m, 1H), 1.77 (m, 2H), 1.96 (m, 1H), 2.25 (q, J=8.82 Hz, 1H), 2.40 (m, 2H), 3.01 (m, 2H), 3.06 (s, 3H), 3.13 (m, 1H), 3.30 (td, J=8.56, 2.54 Hz, 1H), 7.26 (m, 1H), 7.61 (m, 3H), 7.87 (m, 2H), 8.03 (d, J=8.48 Hz, 1H), 8.11 (d, J=8.82 Hz, 1H), 8.13 (s, 1H), 8.53 (m, 1H); MS (DCI-NH3) [M+H]+ at 398.

reactant | 1-(5-methyl-1-pyridin-2-yl-1H-pyrazol-4-yl)-ethanone | CC1=C(C=NN1C1=NC=CC=C1)C(C)=O | C11H11N3O
reactant | 1-(4-methyl-2-thiophen-2-yl-thiazol-5-yl)-ethanone | CC=1N=C(SC1C(C)=O)C=1SC=CC1 | C10H9NOS2
reactant | NH3 | N | H3N
product | 2-(5-Methyl-1-Pyridin-2-yl-1H-pyrazol-4-yl)-6-[2-((2R)-2-methyl-pyrrolidin-1-yl)-ethyl]-quinoline | CC1=C(C=NN1C1=NC=CC=C1)C1=NC2=CC=C(C=C2C=C1)CCN1[C@@H](CCC1)C | C25H27N5
